US04020055
A slow stream of a solution of 23.00 g (0.132 m) of sodium dithionite in 300 ml of water is added to a stirred solution of 16.87 g (0.06 m) of 1-hydroxy-2-imino-4-methyl-3-phenyl-1,2,3,4-tetrahydro-5H-1,4-benzodiazepine-5-one in 700 ml of ethanol. The reaction mixture is refluxed for 2 hours and then concentrated in vacuo, to about 200 ml. The resulting solution is extracted once with chloroform. Some solid crude product, formed during this extraction, is filtered off. The aqueous layer is made basic and extracted with chloroform. The organic solutions are combined, dried and concentrated to dryness in vacuo to give additional solid product. The solids are combined and recrystallized twice from ethanol/ether (the solution is filtered while hot to clarify) to give the pure product, 2-amino-3,4-dihydro-4-methyl-3-phenyl-5H-1,4-benzodiazepine-5-one m.p. 282°-286° C.

reactant | sodium dithionite | 23.00 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 1-hydroxy-2-imino-4-methyl-3-phenyl-1,2,3,4-tetrahydro-5H-1,4-benzodiazepine-5-one | 16.87 g | ON1C(C(N(C(C2=C1C=CC=C2)=O)C)C2=CC=CC=C2)=N | C16H15N3O2
solvent | water | 300 ml | O | H2O
solvent | ethanol | 700 ml | C(C)O | C2H6O
product | 2-amino-3,4-dihydro-4-methyl-3-phenyl-5H-1,4-benzodiazepine-5-one | NC1=NC2=C(C(N(C1C1=CC=CC=C1)C)=O)C=CC=C2 | C16H15N3O
